US08044236B2
(4) Preparation of methyl N-{4-[4-(tert-butyl)benzyloxy]-4′-(trifluoromethoxy)biphenyl-3-yl}oxamate
A solution of methyl chloroglyoxylate (184 μl, 2.0 mmol) in dichloromethane (1.5 ml) was added dropwise at a slow speed to a mixture of 3-amino-4-[4-(tert-butyl)benzyloxy]-4′-(trifluoromethoxy)biphenyl (415 mg, 1.0 mmol), sodium hydrogencarbonate (168 mg, 2.0 mmol), water (5 ml) and dichloromethane (7 ml), and the mixture was stirred at 0° C. for 2 hours. The reaction mixture was diluted with water, and extracted with ethyl acetate. The organic layer was washed with saturated brine, and dried over anhydrous sodium sulfate. The solvent was evaporated under reduced pressure to give the title compound (456 mg, 90.9%) as a white solid.

reactant | methyl chloroglyoxylate | 2.0 mmol, 184 μl | ClC(C(=O)OC)=O | C3H3ClO3
reactant | 3-amino-4-[4-(tert-butyl)benzyloxy]-4′-(trifluoromethoxy)biphenyl | 1.0 mmol, 415 mg | NC=1C=C(C=CC1OCC1=CC=C(C=C1)C(C)(C)C)C1=CC=C(C=C1)OC(F)(F)F | C24H24F3NO2
reactant | sodium hydrogencarbonate | 2.0 mmol, 168 mg | C(O)([O-])=O.[Na+]
solvent | dichloromethane | 1.5 ml | ClCCl | CH2Cl2
solvent | water | O | H2O
solvent | dichloromethane | 7 ml | ClCCl | CH2Cl2
solvent | water | 5 ml | O | H2O
product | methyl N-{4-[4-(tert-butyl)benzyloxy]-4′-(trifluoromethoxy)biphenyl-3-yl}oxamate | 456 mg, 90.9% | C(C)(C)(C)C1=CC=C(COC2=C(C=C(C=C2)C2=CC=C(C=C2)OC(F)(F)F)NC(C(=O)OC)=O)C=C1 | C27H26F3NO5
